US05994378
A solution of benzyl 1-{2-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-2-hydroxyethyl}indole-3-carboxylate (70 mg) and 1N sodium hydroxide (0.13 ml) in tetrahydrofuran (7 ml) was stirred at 50° C. for 1 day. After removal of solvent, the residue was dissolved into water and the solution was acidified with diluted hydrochloric acid. The resulting precipitates were collected by filtration and washed with water to give 1-{2-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-2-hydroxyethyl}indole-3-carboxylic acid (50 mg).

reactant | benzyl 1-{2-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-2-hydroxyethyl}indole-3-carboxylate | 70 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(CN2C=C(C1=CC=CC=C21)C(=O)OCC2=CC=CC=C2)O | C33H30N2O4S
reactant | sodium hydroxide | 1N, 0.13 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 1-{2-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-2-hydroxyethyl}indole-3-carboxylic acid | 50 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(CN2C=C(C1=CC=CC=C21)C(=O)O)O | C26H24N2O4S
